US08236976B2
Preparation of (S)-1-(4-Fluoro-phenyl)-4,4-dimethyl-pent-2-en-1-ol (7)
The product was prepared by General procedure S using 98 mg (0.55 mmol) Cy2BH, 68 μL (0.55 mmol) 3,3-dimethyl-1-butyne, 0.55 mL (1.1 mmol, 2.0 M in hexanes) Et2Zn, 4.8 mg (0.02 mmol) (−)-MIB, and 54 μL (0.50 mmol) p-fluorobenzaldehyde. The crude product was purified by column chromatography (5% ethyl acetate in hexanes) to afford the title compound as a white solid in 82% yield (85 mg, 0.41 mmol). m.p.: 38-40° C.; [α]D20=+21.3 (c=1.2, CHCl3, 93% ee); 1H NMR (CDCl3, 500 MHz): δ 1.01 (s, 9H), 1.84 (br s, 1H), 5.13 (d, 1H, J=6.9 Hz), 5.52 (dd, 1H, J=15.6, 6.9 Hz), 5.77 (d, 1H, J=15.6 Hz), 7.01 (t, 2H, J=8.7 Hz), and 7.31 (dd, 2H, J=8.3, 5.6 Hz) ppm; 13C{1H} NMR (CDCl3, 125 MHz): δ 29.4, 32.9, 74.7, 115.1, 115.3, 127.1, 127.77, 127.83, 139.18, 139.20, 143.7, 161.1, and 163.1 ppm; IR (film): 3344, 3025, 2959, 2866, 1725, 1661, 1604, 1509, 1463, 1363, 1294, 1225, and 1156 cm−1; HRMS-CI m/z 208.1267 [M+; calcd for C13H17FO: 208.1263].

reactant | Cy2BH | 0.55 mmol, 98 mg | B(C1CCCCC1)C1CCCCC1 | C12H23B
reactant | 3,3-dimethyl-1-butyne | 0.55 mmol, 68 μL | CC(C#C)(C)C | C6H10
reactant | Et2Zn | 1.1 mmol, 2.0 M, 0.55 mL | [Zn](CC)CC
reactant | p-fluorobenzaldehyde | 0.50 mmol, 54 μL | FC1=CC=C(C=O)C=C1 | C7H5FO
product | (S)-1-(4-Fluoro-phenyl)-4,4-dimethyl-pent-2-en-1-ol | 82% yield | FC1=CC=C(C=C1)[C@H](C=CC(C)(C)C)O | C13H17FO
